US07557213B2
Step 1: 3-(6-Trifluoromethyl-pyridine-3-carbonyl)-1H-quinolin-4-one
800 mg (1.83 mmol) of 1-(4-methoxy-benzyl)-3-(6-trifluoromethyl-pyridine-3-carbonyl)-1H-quinolin-4-one was heated in a sealed tube to 120° C. in 15 mL of 4 M HCl in dioxane for 20 h. The solution was evaporated and the residue ultrasonicated in 20 mL saturated aqueous NaHCO3. Filtration of the solid followed by aqueous wash, DCM wash and drying gave 340 mg of a light-brown powder. LC-MSD, m/z for C16H9F3N2O2 [M+H]+=319.0; HPLC retention time: 1.8 min.

reactant | 1-(4-methoxy-benzyl)-3-(6-trifluoromethyl-pyridine-3-carbonyl)-1H-quinolin-4-one | 1.83 mmol, 800 mg | COC1=CC=C(CN2C=C(C(C3=CC=CC=C23)=O)C(=O)C=2C=NC(=CC2)C(F)(F)F)C=C1 | C24H17F3N2O3
solvent | HCl | 4 M, 15 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-(6-Trifluoromethyl-pyridine-3-carbonyl)-1H-quinolin-4-one | 340 mg | FC(C1=CC=C(C=N1)C(=O)C1=CNC2=CC=CC=C2C1=O)(F)F | C16H9F3N2O2
